US04971980
Grams 6 2-(3-dimethylaminopropyl)benzimidazole in 100 ml N,N-dimethylformamide are treated with 1.8 g 60% sodium hydride, the mixture is warmed up to 60° C. and 4 g 2-ethoxyethyl chloride are added thereto. It is maintained at 60° C. for 5 hours, then it is poured into water, extracted with diethyl ether and the extracts washed thoroughly with water, filtered on charcoal, made anhydrous on sodium sulphate and evaporated to dryness. The residue is chromatographied on silica gel column eluting with chloroform:methyl alcohol (9:1) and it gives 1-(2-ethoxyethyl)-2-(3-dimethylaminopropyl)benzimidazole.

reactant | 2-(3-dimethylaminopropyl)benzimidazole | CN(CCCC=1NC2=C(N1)C=CC=C2)C | C12H17N3
reactant | sodium hydride | 1.8 g | [H-].[Na+]
reactant | 2-ethoxyethyl chloride | 4 g | C(C)OCCCl | C4H9ClO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-(2-ethoxyethyl)-2-(3-dimethylaminopropyl)benzimidazole | C(C)OCCN1C(=NC2=C1C=CC=C2)CCCN(C)C | C16H25N3O
